US05110496
(3) 4-(5-n-Decyl-2-pyrimidyl)benzoic acid
5-n-Decyl-2-(4'-cyanophenyl)pyrimidine (2.0 g) was refluxed together with diethyl glycol (15 ml) and potassium hydroxide (1.0 g) for 1 day. The reaction mixture was poured in a mixed solution of water (100 ml) and concentrated hydrochloric acid (50 ml) and the mixture was stirred for half a day under heating. The precipitated crystal was collected and washed with water and then recrystallized from ethanol to obtain the titled compound (2.0 g).

reactant | 5-n-Decyl-2-(4'-cyanophenyl)pyrimidine | 2.0 g | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)C#N | C21H27N3
reactant | diethyl glycol | 15 ml | CCOCCOCC | C6H14O2
reactant | potassium hydroxide | 1.0 g | [OH-].[K+]
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 4-(5-n-Decyl-2-pyrimidyl)benzoic acid | 2.0 g | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C(=O)O)C=C1 | C21H28N2O2
